### PR TITLE
feat(Mathlib/RingTheory/LocalRing): extended maximal ideal lies in Jacobson radical for finite extensions

### PR DESCRIPTION
**Pull request by chrisflav**
For a local ring `A` and a finite `A`-algebra `B`, the image of the maximal ideal of `A` under `algebraMap A B` lies in the Jacobson radical of `B`. Three consequences:

- `IsLocalRing.map_maximalIdeal_le_jacobson_bot`:
  `(maximalIdeal A).map (algebraMap A B) ≤ Ideal.jacobson ⊥`.
- `IsLocalRing.isUnit_of_isUnit_quotient_mk_map_maximalIdeal`:
  an element of `B` whose image in `B ⧸ m·B` is a unit is itself a unit in `B`.
- `IsLocalRing.iInf_pow_map_maximalIdeal_eq_bot` (Noetherian `A`):
  `⨅ n, (m·B)^n = ⊥` — Krull's intersection theorem for the extended ideal.

Proof goes via integral going-up (`Ideal.isMaximal_comap_of_isIntegral_of_isMaximal`) for the Jacobson containment, the standard local-hom criterion (`isLocalHom_of_le_jacobson_bot`) for unit lifting, and `Ideal.iInf_pow_smul_eq_bot_of_le_jacobson` for Krull intersection.

Extracted from archon's `Proetale/Mathlib/RingTheory/Etale/HenselianPair.lean` and generalised by dropping the henselian / étale hypotheses (these results only need `IsLocalRing A + Module.Finite A B`).

### CODE REVIEW

File: Proetale/Mathlib/RingTheory/LocalRing/Integral.lean [hunk 1]
```diff
@@ -0,0 +1,75 @@
...
+variable (A B : Type*) [CommRing A] [IsLocalRing A] [CommRing B] [Algebra A B]
+  [Algebra.IsIntegral A B]
+
+/-- For a local ring `A` and an integral `A`-algebra `B`, every maximal ideal of `B`
+contracts to the maximal ideal of `A`. -/
+theorem comap_eq_maximalIdeal_of_isMaximal (J : Ideal B) [J.IsMaximal] :
+    J.comap (algebraMap A B) = maximalIdeal A :=
+  have : (J.comap (algebraMap A B)).IsMaximal :=
+    Ideal.isMaximal_comap_of_isIntegral_of_isMaximal J
+  eq_maximalIdeal this
```
Comment (jjdishere) [inline Proetale/Mathlib/RingTheory/LocalRing/Integral.lean:40]: merge into one term

File: Proetale/Mathlib/RingTheory/LocalRing/Integral.lean [hunk 2]
```diff
@@ -0,0 +1,75 @@
...
+
+/-- For a local ring `A` and an integral `A`-algebra `B`, the extended maximal ideal
+`m · B` is contained in the Jacobson radical of `B`. -/
+theorem map_maximalIdeal_le_jacobson_bot :
+    (maximalIdeal A).map (algebraMap A B) ≤ Ideal.jacobson (⊥ : Ideal B) := by
+  rw [Ideal.jacobson_bot, Ring.jacobson_eq_sInf_isMaximal]
+  refine le_sInf fun J hJ ↦ ?_
+  have : J.IsMaximal := hJ
```
Comment (jjdishere) [inline Proetale/Mathlib/RingTheory/LocalRing/Integral.lean:48]:
```suggestion
  apply le_sInf fun 
  intro J hJ
```

File: Proetale/Mathlib/RingTheory/LocalRing/Integral.lean [hunk 3]
```diff
@@ -0,0 +1,75 @@
...
+  rw [Ideal.map_le_iff_le_comap, comap_eq_maximalIdeal_of_isMaximal A B J]
+
+/-- For a local ring `A` and an integral `A`-algebra `B`, the quotient map
+`B → B ⧸ m · B` is a local ring hom. -/
+theorem isLocalHom_quotient_mk_map_maximalIdeal :
```
Comment (jjdishere) [inline Proetale/Mathlib/RingTheory/LocalRing/Integral.lean:53]:
```suggestion
theorem isLocalHom_mk_map_maximalIdeal :
```

File: Proetale/Mathlib/RingTheory/LocalRing/Integral.lean
Comment (jjdishere) [inline Proetale/Mathlib/RingTheory/LocalRing/Integral.lean:1]: Which further theorem are these theorem used in? Please also include a bit of its usage in this PR.

**Comment by jjdishere** [comment]
orchestra address review
